US08049015B2
(2-Bromo-5-trifluoromethyl-benzyl)-ethyl-carbamic acid tert-butyl ester (3.23 g, 8.5 mmol), bis(pinacolato)diboron (2.57 g, 10.1 mmol), potassium acetate (2.5 g, 25.5 mmol), and bis(diphenylphosphino)ferrocene)-dichloropalladium(II) (0.390 g, 0.5 mmol) were combined in 1,4-dioxane (30 mL). The solution was purged with N2, and then the reaction was stirred at 85° C. for 14 hours. The mixture was concentrated and partitioned between EtOAc and H2O. The aqueous layer was extracted with EtOAc, and the combined organic layers were dried over MgSO4, filtered, and concentrated. The residue was filtered through a plug of silica gel (20% EtOAc in hexanes) to give ethyl-[2-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-5-trifluoromethyl-benzyl]-carbamic acid tert-butyl ester.

reactant | (2-Bromo-5-trifluoromethyl-benzyl)-ethyl-carbamic acid tert-butyl ester | 8.5 mmol, 3.23 g | C(C)(C)(C)OC(N(CC)CC1=C(C=CC(=C1)C(F)(F)F)Br)=O | C15H19BrF3NO2
reactant | bis(pinacolato)diboron | 10.1 mmol, 2.57 g | B1(OC(C(O1)(C)C)(C)C)B2OC(C(O2)(C)C)(C)C | C12H24B2O4
reactant | potassium acetate | 25.5 mmol, 2.5 g | C(C)(=O)[O-].[K+]
solvent | 1,4-dioxane | 30 mL | O1CCOCC1 | C4H8O2
catalyst | bis(diphenylphosphino)ferrocene | C1(=CC=CC=C1)P(C1=CC=CC=C1)[C-]1C=CC=C1.[C-]1(C=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.[Fe+2]
catalyst | dichloropalladium(II) | 0.5 mmol, 0.390 g | Cl[Pd]Cl
product | ethyl-[2-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-5-trifluoromethyl-benzyl]-carbamic acid tert-butyl ester | C(C)(C)(C)OC(N(CC1=C(C=CC(=C1)C(F)(F)F)B1OC(C(O1)(C)C)(C)C)CC)=O | C21H31BF3NO4
